US07622482B2
2-Chloro-6-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-fluoronicotinonitrile
A solution of 5-cyclopropyl-1H-pyrazol-3-amine (1.9 g, 16.0 mmol) in CH3CN (20 ml) was added dropwise to a solution of 2,6-dichloro-5-fluoronicotinonitrile (3.0 g, 16.0 mmol) and triethylamine (2.1 g, 20.0 mmol) in CH3CN (80 ml) at 25° C. The resulting solution was heated to 82° C. for 18 hrs, and then cooled to 25° C. The resulted precipitate was collected by filtration and washed with CH3CN (100 ml) to give the title compound (3.2 g, 73%). MS: Calcd.: 277. Found: [M+H]+ 278.

reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 16.0 mmol, 1.9 g | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | 2,6-dichloro-5-fluoronicotinonitrile | 16.0 mmol, 3.0 g | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | triethylamine | 20.0 mmol, 2.1 g | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 20 ml | CC#N | C2H3N
solvent | CH3CN | 80 ml | CC#N | C2H3N
product | 2-Chloro-6-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-fluoronicotinonitrile | 3.2 g, 73% | ClC1=C(C#N)C=C(C(=N1)NC1=NNC(=C1)C1CC1)F | C12H9ClFN5
